US03962224
A solution of chloro-2-propanone (0.470 q., 5.08 mMol) in acetone (4 ml.) is added dropwise during 15 minutes to a rapidly stirring mixture of trichloroethyl α-thioformamido-diethylphosphonoacetate (1.783 g., 4.62 mMol), K2CO3 (0.702 g., 5.08 mMol), and acetone (6 ml.). After having been stirred for 15 hours at room temperature, the mixture is diluted with methylene chloride (30 ml.) and filtered to remove salts. The filtrate is evaporated under reduced pressure to yield 2-oxo-propyl N-(trichloroethoxycarbonyl-diethylphosphonomethyl)-thioformimidate.

reactant | chloro-2-propanone | 5.08 mMol | ClCC(C)=O | C3H5ClO
reactant | trichloroethyl α-thioformamido-diethylphosphonoacetate | 4.62 mMol, 1.783 g | C(=S)NC(C(=O)OCC(Cl)(Cl)Cl)P(=O)(OCC)OCC | C9H15Cl3NO5PS
reactant | K2CO3 | 5.08 mMol, 0.702 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 2-oxo-propyl N-(trichloroethoxycarbonyl-diethylphosphonomethyl)-thioformimidate | ClC(COC(=O)C(N=CSCC(C)=O)P(=O)(OCC)OCC)(Cl)Cl | C12H19Cl3NO6PS
